US06586467B2
(2S)-3-(3-Amino-4-hydroxy-phenyl)-2-benzenesulfonylamino-N-(4-phenyl-butyl)-propionamide (502 mg, 1.07 mmol) is dissolved in dichloroethane (5 mL). 37% formaldehyde (120 mg, 1.47 mmol) and NaBH(OAc)3 (1.1 g, 5 mmol) are added. The mixture is stirred overnight. Saturated NaHCO3 (20 mL) is added and the crude mixture is extracted with ETOAC three times. The organic phase is dried and concentrated in vacuo. The small volume of solution is filtered through silica gel plug to provide a crude solution of (2S)-2-benzenesulfonylamino-3-(4-hydroxy-3-methylamino-phenyl)-N-(4-phenyl-butyl)-propionamide which is used without further purification.

reactant | (2S)-3-(3-Amino-4-hydroxy-phenyl)-2-benzenesulfonylamino-N-(4-phenyl-butyl)-propionamide | 1.07 mmol, 502 mg | NC=1C=C(C=CC1O)C[C@@H](C(=O)NCCCCC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1 | C25H29N3O4S
reactant | formaldehyde | 1.47 mmol, 120 mg | C=O | CH2O
reactant | NaBH(OAc)3 | 5 mmol, 1.1 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | 20 mL | C(=O)(O)[O-].[Na+]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | (2S)-2-benzenesulfonylamino-3-(4-hydroxy-3-methylamino-phenyl)-N-(4-phenyl-butyl)-propionamide | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)NCCCCC1=CC=CC=C1)CC1=CC(=C(C=C1)O)NC | C26H31N3O4S
